* C:\Users\david\OneDrive - UTN.BA\UTN-FRBA\Nivel 5\Electrónica de Potencia\Proyecto G2\Proyecto 1C\LTspice\G2.asc
Vin Vin 0 {Vin} Rser=0
Rsc Vin SWC {Rsc}
Ct N001 0 {Ct}
R2 Vout Cinv {R2}
R1 Cinv 0 {R1}
Cout Vout 0 {Cout}
Cin Vin 0 {Cin}
XU1 SWC SWE N001 0 Cinv Vin SWC SWC MC34063
L1 SWE Vout {L1}
D1 0 SWE 1N5819
RL Vout 0 {RL}
.model D D
.lib C:\Users\david\AppData\Local\LTspice\lib\cmp\standard.dio
.inc MC34063.lib
.param Vin 12V
.param f 40KHz
.param T 1/f
.param D 0.416
.param RL 5
.param R1 1K
.param R2 3k
.param Rsc 0.15
.param L1 47u
.param Cout 250uF
.param Cin 100uF
.param Ct 470pF
.options Gmin=1e-9 method=Gear
.tran 0 7m 0.1m 100n uic
.backanno
.end
